US07485665B2
11.74 g of 4-acetylamino-5-chloro-2-methoxy-N-[(2S,4S)-1-acetyl-2-hydroxymethyl-4-pyrrolidinyl]benzamide was dissolved in ethyl alcohol (60 ml), and sodium hydroxide (2.7 g) was added thereto. The mixture was heated at reflux for 8.5 hours. After addition of water (20 ml), the mixture was stirred at room temperature for 1 hour to filter insolubles off, and washed sufficiently with water (50 ml). The filtrate was concentrated under reduced pressure, n-butyl alcohol (50 ml) and a saturated brine solution (20 ml) were added to the resulting residue, and the layers were separated, followed by re-extraction with n-butyl alcohol (30 ml). The extract was concentrated under reduced pressure, methyl alcohol (50 ml) was added to the residue to dissolve it, and 18% (w/w) hydrochloric acid-containing methyl alcohol (6.5 g) was gradually added to adjust to a pH 6. After ice-cooling, precipitated crystals were filtered, and washed with a small amount of methyl alcohol. The resulting crystals were recrystallized from ethyl alcohol to obtain 5.5 g of the objective 4-amino-5-chloro-2-methoxy-N-[(2S,4S)-2-hydroxymethyl-4-pyrrolidinyl]benzamide monohydrochloride. mp 219-222° C., [α]D20: +4.20 (c=1.00, EtOH)

reactant | 4-acetylamino-5-chloro-2-methoxy-N-[(2S,4S)-1-acetyl-2-hydroxymethyl-4-pyrrolidinyl]benzamide | 11.74 g | C(C)(=O)NC1=CC(=C(C(=O)N[C@H]2C[C@H](N(C2)C(C)=O)CO)C=C1Cl)OC | C17H22ClN3O5
reactant | sodium hydroxide | 2.7 g | [OH-].[Na+]
reactant | water | 20 ml | O | H2O
solvent | ethyl alcohol | 60 ml | C(C)O | C2H6O
product | 4-amino-5-chloro-2-methoxy-N-[(2S,4S)-2-hydroxymethyl-4-pyrrolidinyl]benzamide monohydrochloride | 5.5 g | Cl.NC1=CC(=C(C(=O)N[C@H]2C[C@H](NC2)CO)C=C1Cl)OC | InChI=1S/C13H18ClN3O3.ClH/c1-20-12-4-11(15)10(14)3-9(12)13(19)17-7-2-8(6-18)16-5-7;/h3-4,7-8,16,18H,2,5-6,15H2,1H3,(H,17,19);1H/t7-,8-;/m0./s1
